US05888940
4,6-Dichloro-7-isocyanato-2-(methylsulfonyl)benzothiazole (compound XI.1; =XIb.3)
5 g (17 mmol) of 7-amino-4,6-dichloro-2-(methylsulfonyl)benzothiazole and 17 g (85 mmol) of diphosgene in 200 ml of toluene were refluxed for 8 hours, after which the reaction mixture was evaporated down.

reactant | 7-amino-4,6-dichloro-2-(methylsulfonyl)benzothiazole | 17 mmol, 5 g | NC1=C(C=C(C=2N=C(SC21)S(=O)(=O)C)Cl)Cl | C8H6Cl2N2O2S2
reactant | diphosgene | 85 mmol, 17 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4,6-Dichloro-7-isocyanato-2-(methylsulfonyl)benzothiazole | ClC1=CC(=C(C2=C1N=C(S2)S(=O)(=O)C)N=C=O)Cl | C9H4Cl2N2O3S2
